US05302612
Preparation of (2aR,4S)-1-benzoyl-4-amino-6-bromo-1,2,2a,3,4,5-hexahydrobenz[cd]indole
(2aR,4S)-1-Benzoyl-4-amino-1,2,2a,3,4,5-hexahydrobenz[cd]indole (29.4 g, 0.106 mole) was placed into a 500 ml three neck round bottom flask equipped with a mechanical stirrer, a nitrogen inlet and a constant addition funnel. The substrate was dissolved in glacial acetic acid (250 ml), and sodium acetate (34.7 g, 0.423 mole, 4 mol equiv) was then added. A solution of bromine (21.8 ml, 0.424 mole) in acetic acid was then added dropwise over a period of one hour with vigorous stirring and then stirred at room temperature overnight. The resulting thick slurry was diluted with ethyl ether, filtered and washed with ethyl ether. The material thus obtained was slurried in H2O and the pH adjusted to 11-12 with 5N NaOH. The solid was filtered, washed well with H2O and dried in vacuo to provide 33.6 g (88.8%) of the title compound. An analytical sample was prepared by recrystallization from isopropyl alcohol. m.p.: 169°-173° C.

reactant | (2aR,4S)-1-Benzoyl-4-amino-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 0.106 mole, 29.4 g | C(C1=CC=CC=C1)(=O)N1C[C@H]2C=3C(=CC=CC13)C[C@H](C2)N | C18H18N2O
reactant | sodium acetate | 0.423 mole, 34.7 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.424 mole, 21.8 ml | BrBr | Br2
reactant | NaOH | 5N | [OH-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | H2O | O | H2O
product | (2aR,4S)-1-benzoyl-4-amino-6-bromo-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 33.6 g, 88.8% | C(C1=CC=CC=C1)(=O)N1C[C@H]2C=3C(=C(C=CC13)Br)C[C@H](C2)N | C18H17BrN2O
